US09034866B2
Synthesis of 9-fluoro-10-(3-hydroxy-3-(3-methylpyridin-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-(3-methylpyridin-2-yl)but-3-yn-2-ol to give the titled compound as a yellow solid (15.0 mg, 7%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-(3-methylpyridin-2-yl)but-3-yn-2-ol | CC=1C(=NC=CC1)C(C)(C#C)O | C10H11NO
product | 9-fluoro-10-(3-hydroxy-3-(3-methylpyridin-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 15.0 mg, 7% | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(C1=NC=CC=C1C)O | C22H19FN4O3
